US06350749B1
To a solution of 5-methoxymethylene-2,2-dimethyl-[1,3]dioxane-4,6-dione (1.8 g) in acetonitrile (15 ml) was added 1-amino-5-phenylcyclohexen-3-one (2.0 g), and the mixture was stirred at room temperature for 24 hours. The resulting crystals were filtered and washed with acetonitrile to give crystals of 2,2-dimethyl-5-[(3-oxo-5-phenyl-1-cyclohexenylamino)methylene]-[1,3]dioxane-4,6-dione (1.2 g).

reactant | 5-methoxymethylene-2,2-dimethyl-[1,3]dioxane-4,6-dione | 1.8 g | COC=C1C(OC(OC1=O)(C)C)=O | C8H10O5
reactant | 1-amino-5-phenylcyclohexen-3-one | 2.0 g | NC1=CC(CC(C1)C1=CC=CC=C1)=O | C12H13NO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 2,2-dimethyl-5-[(3-oxo-5-phenyl-1-cyclohexenylamino)methylene]-[1,3]dioxane-4,6-dione | 1.2 g | CC1(OC(C(C(O1)=O)=CNC1=CC(CC(C1)C1=CC=CC=C1)=O)=O)C | C19H19NO5
